data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "Cc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "Cc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "Cc1ccc2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1ccc2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1ccc2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "Cc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "Cc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "Cc1ccc2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1ccc2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1ccc2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(F)cc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "Cc1ccc(F)cc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "Cc1ccc(F)cc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)ccc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)ccc1C", "products": "Cc1ccc(F)cc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(C)c(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "Cc1ccc(C)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "Cc1ccc(C)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "Cc1ccc(C)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1ccc(C)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1ccc(C)c2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cccc(F)c1C(=O)C1C2CCC1C2", "products": "Cc1cccc(F)c1[C]([O])C1C2CCC1C2"}, {"reactants": "Cc1cccc(F)c1[C]([O])C1C2CCC1C2", "products": "Cc1cccc(F)c1C([O])=CC1C[CH]CC1"}, {"reactants": "Cc1cccc(F)c1C([O])=CC1C[CH]CC1", "products": "Cc1cccc(F)c1C(O)=CC1C=CCC1"}, {"reactants": "Cc1cccc(F)c1C(O)=CC1C=CCC1", "products": "Cc1cccc(F)c1C(=O)CC1C=CCC1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CC)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CC)cc1=C", "products": "CC[Si](C)(C)c1cc2c(cc1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(C)c1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(C)c1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(C)c1C)C(C)C", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1C"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1C", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1C"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1C.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1C"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1C", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1C.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(Cl)c(F)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)c(F)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)c(F)c1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Cl)c(F)c2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Cl)c(F)c2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Cl)c(F)c2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Cl)c(F)c2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Cl)c(F)c2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Cl)c(F)c2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(Cl)c(F)c2)O1.[Rh]"}]}
